US05840911
a) 2-Amino-1-benzylideneamino-4-(4-biphenylyl)-imidazole
7 ml (0.0507 mol) of triethylamine and 13.75 g (0.050 mol) of 2-bromo-4'-phenylaceto-phenone (Aldrich, Buchs, Switzerland; tech., Cat. no. 10,108-7) are added to a solution of 8.11 g (0.05 mol) of benzaldehyde guanylhydrazone in 40 ml of ethanol. The reaction mixture is stirred at 20° C. for 15 hours and is filtered, and the crystallizate is taken up in methylene chloride and acidified to pH 1 with 1N hydrochloric acid. After filtration, the filtration product is taken up in methanol, and 2N sodium hydroxide solution is added until a basic reaction is obtained (pH 11). Filtration is carried out and the crystalline product is washed with methanol/water (1:1). The title compound so obtained melts at 254°-255° C. (decomp.), 1H-NMR (DMSO): δ=8.60 (s, 1H); 8.10 (s, 1H); 7.93-7.98 (m, 2H); 7.67-7.83 (m, 6H); 7.32-7.55 (m, 6H); 6.24 (s, 2H).

reactant | triethylamine | 0.0507 mol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4'-phenylaceto-phenone | 0.050 mol, 13.75 g | BrCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H11BrO
reactant | benzaldehyde guanylhydrazone | 0.05 mol, 8.11 g | C(N)(=N)NN=CC1=CC=CC=C1 | C8H10N4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Amino-1-benzylideneamino-4-(4-biphenylyl)-imidazole | NC=1N(C=C(N1)C1=CC=C(C=C1)C1=CC=CC=C1)N=CC1=CC=CC=C1 | C22H18N4
